US06124343
2-Hydroxy-4-(3-pyridylmethoxy)benzaldehyde
A mixture of 2,4-dihydroxybenzaldehyde (25 g), 3-picolyl chloride hydrochloride (38.2 g), potassium carbonate (91 g), potassium iodide (0.5 g) and tetra-n-butylammonium bromide (0.5 g) in methyl ethyl ketone (1000 ml) was heated at reflux for 4 hours. The reaction mixture was filtered and evaporated. The residue was partitioned between ethyl acetate and dilute acetic acid. The organic phase was washed with water, dried over magnesium sulphate and evaporated. The residue was purified by flash chromatography on silica eluting initially with a mixture of pentane and ethyl acetate (3:1, v/v) then with a mixture of pentane and ethyl acetate (1:1, v/v) and finally with a mixture of pentane and ethyl acetate (85:15, v/v). Fractions homogenous in the required product were combined and evaporated affording the title compound (5 g) as an off-white solid.

reactant | 2,4-dihydroxybenzaldehyde | 25 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | 3-picolyl chloride hydrochloride | 38.2 g | Cl.N1=CC(=CC=C1)CCl
reactant | potassium carbonate | 91 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 g | [I-].[K+]
catalyst | tetra-n-butylammonium bromide | 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methyl ethyl ketone | 1000 ml | C(C)C(=O)C | C4H8O
product | 2-Hydroxy-4-(3-pyridylmethoxy)benzaldehyde | 5 g | OC1=C(C=O)C=CC(=C1)OCC=1C=NC=CC1 | C13H11NO3
